US04128650
7H-Dibenzo[de,h]quinol-7-one (17.4 g) and Adams platinum (5.8 g) suspended in ethanol (394 cc) are placed under an initial hydrogen pressure of 10 bars at 25° C. The mixture is stirred for 23 hours at 25° C. The catalyst is filtered off and washed four times with dimethylformamide (total 1000 cc). The combined organic solutions are evaporated to dryness. The residue (22.1 g) is stirred for one hour with distilled water (500 cc) and then the precipitate is filtered off, washed twice, successively, with ethanol (total of 20 cc) and then dried under reduced pressure (20 mm Hg) at 20° C. A crude product (15.8 g) is obtained which is recrystallised from a mixture (300 cc) of equal parts of ethanol and dimethylformamide. After cooling for 20 hours at about 5° C., the crystals are filtered off, washed three times with diethyl ether (total 60 cc) and dried under reduced pressure (1 mm Hg) at 100° C. The product obtained (12.1 g) is recrystallised a second time from butyl acetate (410 cc). After cooling for 16 hours at 5° C., the crystals are filtered off, washed twice with ethyl acetate (total 20 cc) and dried under reduced pressure (1 mm Hg) at 100° C. for 8 hours. 7-Hydroxy-5,6-dihydro-4H-dibenzo[de,h]quinoline (11.3 g), melting at 260° C., is thus obtained.

reactant | 7H-Dibenzo[de,h]quinol-7-one | 17.4 g | N1=CC=C2C=3C(C(C4=C(C13)C=CC=C4)=O)=CC=C2 | C16H9NO
solvent | ethanol | 394 cc | C(C)O | C2H6O
catalyst | platinum | 5.8 g | [Pt] | Pt
product | 7-Hydroxy-5,6-dihydro-4H-dibenzo[de,h]quinoline | 11.3 g | OC1=C2C=3C(=CC=NC3C3=C1C=CC=C3)CCC2 | C16H13NO
